US07012089B2
2-(4-Fluoro-2-nitro-phenyl)-ethanol
To a solution of 4-fluoro-1-methyl-2-nitrobenzene (73.2 g, 0.47 mole) in DMSO (75 mL) was added paraformaldehyde (14.1 g, 0.47 mole), followed by potassium hydroxide (0.75 g) in ethanol (5 mL). The resulting reaction mixture was stirred at room temperature for six days and water (2 L) was added and the mixture neutralized with hydrochloric acid (2 N). The mixture was extracted with ethyl acetate (1 L) and the combined organic layers were washed with water (1 L), saturated sodium chloride (500 mL), dried (sodium sulfate) and concentrated to a yellow solid. Purification by flash column chromatography (silica gel, 1:1 methylene chloride:hexanes to methylene chloride) provided 20.7 g of the title compound as a light yellow oil. 1H NMR (CDCl3): 7.63 δ (dd, 1H); 7.40 δ (dd, 1H); 7.28 δ (dd, 1H); 3.90 δ (t, 3H); 3.10 δ (t, 2H); 1.55 δ (broad, 1H).

reactant | 4-fluoro-1-methyl-2-nitrobenzene | 0.47 mole, 73.2 g | FC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | paraformaldehyde | 0.47 mole, 14.1 g | C=O | CH2O
reactant | potassium hydroxide | 0.75 g | [OH-].[K+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | DMSO | 75 mL | CS(=O)C | C2H6OS
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 2 L | O | H2O
product | 2-(4-Fluoro-2-nitro-phenyl)-ethanol | 20.7 g | FC1=CC(=C(C=C1)CCO)[N+](=O)[O-] | C8H8FNO3
